data/pmechdb/original/mc_train_fold0/raw/train.txt
CC(C)C([C:20](N1CCCC1C(=O)NC)([O-:10])[O:21]N2C3=C(C=CC=C3)N=[NH+]2)NC(=O)OC>>CC(C)C([C:20](=[O:10])N1CCCC1C(=O)NC)NC(=O)OC.C1=CC2=C(C=C1)N([NH+]=N2)[O-:21] 10=20;20,21=21
CC(=O)[O:21][C:20]1(CCCO1)[O-:10]>>CC(=O)[O-:21].C1C[C:20](=[O:10])OC1 10=20;20,21=21
[H:20][N+:21]1=C2C3=CC4=C(C=CC=C4)C=C3C2=NC5=C1C=CC=C5.CC(=O)[O-:10].CO.O>>C1=CC2=C(C=C1)C=C3C(=C2)C4=NC5=C(C=CC=C5)[N:21]=C34.[H:20][O:10]C(=O)C.CO.O 10=20;20,21=21
[H:10][AlH3-:11].C[C:20](=[N:21]C)C>>[H:10][C:20](C)(C)[N-:21]C.[AlH3:11] 10,11=10,20;20,21=21
[H:20][C:21]1([CH+:22]C(=CO1)C)S(=O)(=O)O.OS(=O)(=O)[O-:10]>>[H:20][O:10]S(=O)(=O)O.CC1=CO[C:21](=[CH:22]1)S(=O)(=O)O 10=20;20,21=21,22
COC1=C(C2=C(CC3C4C2(CCN3CCC5=CC=CC=C5)[CH+:20]C(=CC4)O)C=C1)[OH:10].CO.CS(=O)(=O)O.CS(=O)(=O)[O-]>>COC1=C2C3=C(CC4C5C3(CCN4CCC6=CC=CC=C6)[CH:20]([OH+:10]2)C(=CC5)O)C=C1.CO.CS(=O)(=O)O.CS(=O)(=O)[O-] 10=20,
CC(C)(C)OC(=O)O[C:20](=[O:21])OC(C)(C)C.CN(C)C1=CC=[N:10]C=C1.C=CC1=C(C=CC=C1)N>>CC(C)(C)OC(=O)O[C:20]([N+:10]1=CC=C(C=C1)N(C)C)([O-:21])OC(C)(C)C.C=CC1=C(C=CC=C1)N 10=20;20,21=21
[H:20][Br:21].CP(=[O:10])(C)C>>[H:20][O+:10]=P(C)(C)C.[Br-:21] 10=20;20,21=21
CC(CC[OH:10])OS(=O)(=O)C(F)(F)F.C(F)(F)(F)S(=O)(=O)O[S:20](=O)(=[O:21])C(F)(F)F>>CC(CC[OH+:10][S:20](=O)(C(F)(F)F)([O-:21])OS(=O)(=O)C(F)(F)F)OS(=O)(=O)C(F)(F)F 10=20;20,21=21
[H:20][NH+:21](CC1=CC=CO1)C(C)(CCC(=O)C)[O-].C1=COC(=C1)C[NH2:10].O>>[H:20][NH2+:10]CC1=CC=CO1.CC(=O)CCC(C)([NH:21]CC1=CC=CO1)[O-].O 10=20;20,21=21
[H:20][N+:21](=CCO[Si](C1=CC=CC=C1)(C2=CC=CC=C2)C(C)(C)C)C(CC#N)CC3=CNC4=CC=CC=C43.C1=CC2=C(C=C1)NC=C2CC(CC#N)[NH2:10].O>>[H:20][NH2+:10]C(CC#N)CC1=CNC2=C1C=CC=C2.CC(C)(C)[Si](C1=CC=CC=C1)(C2=CC=CC=C2)OCC=[N:21]C(CC#N)CC3=CNC4=CC=CC=C43.O 10=20;20,21=21
C[N-:10]C(=O)CC1(CC[C:22](=[O:23])[CH:21]=[CH:20]1)C2=CC(=C(C=C2)OC)OC.C[NH3+].O>>C[N:10]1[CH:20]2[CH:21]=[C:22](CCC2(CC1=O)C3=CC(=C(C=C3)OC)OC)[O-:23].C[NH3+].O 10=20;22,23=23;20,21=21,22
[H:20][CH:21](CCC)[CH:22]=[C:23](CC(=O)CCCC)[P+:24](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3.CC[OH:10]>>[H:20][OH+:10]CC.CCCCC(=O)C[C:23](=[P:24](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)[CH:22]=[CH:21]CCC 10=20;20,21=21,22;22,23=23,24
[H:20][O+:21]=C(CCC(=O)NC)OCC.OS(=O)(=O)[O-:10]>>[H:20][O:10]S(=O)(=O)O.CCOC(=[O:21])CCC(=O)NC 10=20;20,21=21
C[C:20](C)([OH2+:21])[S:10]CCS>>C[C:20](=[S+:10]CCS)C.[OH2:21] 10=20;20,21=21
C[C+:20]=O.CC(C)[C:13]1=[CH:12][CH:11]=[CH:10]C=C1>>CC(C)[C+:13]1C=C[CH:10]([CH:11]=[CH:12]1)[C:20](=O)C 10,11=10,20;12,13=11,12
COC(C[CH+:20][CH2:10][Si-:11](C)(C)(C)OS(=O)(=O)C(F)(F)F)C1=C(C=CC=C1)Cl.CO[Sc](OS(=O)(=O)C(F)(F)F)OS(=O)(=O)C(F)(F)F>>COC(C[CH:20]=[CH2:10])C1=C(C=CC=C1)Cl.C[Si:11](C)(C)OS(=O)(=O)C(F)(F)F.CO[Sc](OS(=O)(=O)C(F)(F)F)OS(=O)(=O)C(F)(F)F 10,11=10,20
COC(=O)[N:20]=[N:21][C:22](=[O:23])OC.C[P:10](C)C>>CO[C:22](=[N:21][N:20](C(=O)OC)[P+:10](C)(C)C)[O-:23] 10=20;22,23=23;20,21=21,22
CC1[CH+:20][CH:10]2C3[C:11]2(C1(CC(C3)C(=C)C)C)C.CS(=O)(=O)[O-].C1=CC=NC=C1>>CC1[CH:20]=[CH:10]C2CC(CC1([C+:11]2C)C)C(=C)C.CS(=O)(=O)[O-].C1=CC=NC=C1 10,11=10,20
C[C:20]1(CC2=C([NH:10]1)CCCC2=O)[OH2+:21].CC(=O)[O-].O>>C[C:20]1=[NH+:10]C2=C(C1)C(=O)CCC2.[OH2:21].CC(=O)[O-].O 10=20;20,21=21
[H:20][CH:21](C)[C+:22](C)C.OP(=O)(O)[O-:10]>>[H:20][O:10]P(=O)(O)O.C[CH:21]=[C:22](C)C 10=20;20,21=21,22
CCC(C)O[Al-:10]([OH+:11]C(C)C)(OC(C)C)OC(C)C.CC(C)[O-]>>CCC(C)O[Al:10](OC(C)C)OC(C)C.CC(C)[OH:11].CC(C)[O-] 10,11=11
CC[O:10][CH:20](C)[NH+:21](C)C>>CC[O+:10]=[CH:20]C.C[NH:21]C 10=20;20,21=21
CC(=O)N(CCO[Si:20](C)(C)C(C)(C)C)CC12CCC34C5CCC(CC5C(CC3(C1=CC(=O)C2=O)O4)O[Si](C)(C)C(C)(C)C)O[Si](C)(C)C(C)(C)C.[F-:10].CN(C)S(=[N+](C)C)N(C)C.C[Si](C)(C)F>>CC(=O)N(CCO[Si-:20](C)(C)(C(C)(C)C)[F:10])CC12CCC34C5CCC(CC5C(CC3(C1=CC(=O)C2=O)O4)O[Si](C)(C)C(C)(C)C)O[Si](C)(C)C(C)(C)C.CN(C)S(=[N+](C)C)N(C)C.C[Si](C)(C)F 10=20,
[CH:11]1=[CH:10]OC(=C1)Br.[N+:20](=O)=[O:21]>>C1=C(O[CH:10]([CH+:11]1)[N+:20](=O)[O-:21])Br 10,11=10,20;20,21=21
[H:20][CH:21]1CC=CC([CH:22]1[Br:23])C.CC(C)[N-:10]C(C)C>>CC1C=CC[CH:21]=[CH:22]1.[Br-:23].[H:20][N:10](C(C)C)C(C)C 10=20;22,23=23;20,21=21,22
C[CH:20]1[NH2+:21]CC[O:10]1>>C[CH:20]=[O+:10]CC[NH2:21] 10=20;20,21=21
[H:10][AlH2-:11]O[C:20](=[O:21])C=CC[O-]>>[H:10][C:20](C=CC[O-])([O-:21])O[AlH2:11] 10,11=10,20;20,21=21
C[S:20][S:21]C.C(CC[S-:10])CS>>C[S-:21].C[S:20][S:10]CCCCS 10=20;20,21=21
[H:10][BH2-:11][O+:21]=[CH:20]CCC>>[H:10][CH:20](CCC)[O:21][BH2:11] 10,11=10,20;20,21=21
C[C:10](=[CH:11][N:12](CCC1=CC=C(C(=C1)OC)OC)C(=O)[CH:20]=[S+:21]C)C(=O)OC.CS(=O)(=O)[O-].O>>C[C:10]1([CH:11]=[N+:12](C(=O)[CH:20]1[S:21]C)CCC2=CC=C(C(=C2)OC)OC)C(=O)OC.CS(=O)(=O)[O-].O 10,11=10,20;20,21=21;12=11
C[Si-:10](C)(C)([O:11]S(=O)(=O)C(F)(F)F)[O+]=CCCC1=CC=CC=C1.CC(C)O[Si](C)(C)C.C[Si](C)(C)CC=C>>C[Si:10](C)(C)[O+]=CCCC1=CC=CC=C1.C(F)(F)(F)S(=O)(=O)[O-:11].CC(C)O[Si](C)(C)C.C[Si](C)(C)CC=C 10,11=11
[H:20][C:21]1(C=CC=C[C+:22]1Br)[N+](=O)[O-].OS(=O)(=O)[O-:10]>>[H:20][O:10]S(=O)(=O)O.C1=C[C:21](=[C:22](C=C1)Br)[N+](=O)[O-] 10=20;20,21=21,22
CC(=O)[O:21][C:20](C=C)(C1=CC=CC=C1)[O-:10]>>CC(=O)[O-:21].C=C[C:20](=[O:10])C1=CC=CC=C1 10=20;20,21=21
